US04866089
Preparation of 6-hydroxy-7-isopropoxy-2,2-dimethyl-4-chromanone
In 80 ml of N,N-dimethyl formamide 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 4.1 g (30 millimoles) of potassium carbonate and 4.2 g (2.5 ml, 25 millimoles) of isopropyl iodide are added. The reaction mixture is heated at 130° C. for 6 hours, poured into 200 ml of water and extracted with 100 ml of carbon tetrachloride. To the aqueous layer 50 ml of an 5% sodium hydroxide solution are added and the mixture is cooled below 5° C. The mixture is acidified with concentrated hydrochloric acid, the precipitated crystalline substance is filtered off and crystallized from methanol. Thus 4.5 g of the desired compound are obtained, yield 90%, mp.: 138°-139° C.

reactant | N,N-dimethyl formamide | 20 millimoles, 80 ml, 4.2 g | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 30 millimoles, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 25 millimoles, 2.5 ml, 4.2 g | C(C)(C)I | C3H7I
reactant | water | 200 ml | O | H2O
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
product | 6-hydroxy-7-isopropoxy-2,2-dimethyl-4-chromanone | 4.5 g, yield 90% | OC=1C=C2C(CC(OC2=CC1OC(C)C)(C)C)=O | C14H18O4
